.subckt PS1720P02 IN OUT
C0 IN OUT 15n
R1 IN 1 63k
R2 IN 2 22k
R3 IN 3 42k
L1 1 4 19
L2 2 5 4.3
L3 3 6 4.1
C1 4 OUT 300p
C2 5 OUT 810p
C3 6 OUT 260p
.ends